US05116858
5-(4'-Cyclohexylphenyl)-1-isopropyl-4-methyl-4-imidazolin-2-one (Compound No. 77)
2-Amino-4'-cyclohexylpropiophenone hydrochloride (477 mg, 1.78 mmol) was suspended in acetone (30 ml) under ice-cooling, and isopropyl isocyanate (198 mg, 2.33 mmol) was added thereto. Triethylamine (533 mg, 5.28 mmol) was added, and the mixture was stirred for one hour under ice-cooling. After addition of trifluoroacetic acid (2 ml), the mixture was stirred for 2 days at room temperature. The solvent was removed by evaporation in vacuo, and the residue was extracted with dichloromethane. The extract was washed successively with water and saturated aqueous sodium chloride, and dried over magnesium sulfate. Evaporation of the solvent provided a crude product, which was purified by column chromatography (chloroform/ ethanol=50/1 (v/v)) and recrystalization (ethanol-chloroform) to give the title compound. Yield: 351 mg (66%), m.p. 274° C.

reactant | 2-Amino-4'-cyclohexylpropiophenone hydrochloride | 1.78 mmol, 477 mg | Cl.NC(C(=O)C1=CC=C(C=C1)C1CCCCC1)C
reactant | isopropyl isocyanate | 2.33 mmol, 198 mg | C(C)(C)N=C=O | C4H7NO
reactant | Triethylamine | 5.28 mmol, 533 mg | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 5-(4'-Cyclohexylphenyl)-1-isopropyl-4-methyl-4-imidazolin-2-one | C1(CCCCC1)C1=CC=C(C=C1)C1=C(NC(N1C(C)C)=O)C | C19H26N2O
